US06013662
A solution of 20.1 g (0.132 mol) of 4-methoxyphenylboronic acid in 580 cm3 of methanol and 1170 cm3 of a 2N aqueous sodium carbonate solution were successively added to a solution of 58.6 g (0.12 mol) of methyl(3aRS,4SR,7aRS)-2-benzyl-7-iodo-4-methyl-4-phenyl-2,3,3a,4,5,7a-hexahydro-1H-isoindole-3a-carboxylate and of 7 g of tetrakis(triphenylphosphine)palladium in 30 cm3 of toluene and then the mixture was brought to reflux for twenty-four hours. After returning to a temperature in the region of 20° C., the reaction mixture was extracted with ethyl acetate, washed with distilled water, dried over magnesium sulphate and then concentrated under reduced pressure. The residue obtained was purified by flash chromatography on silica gel (230-400 mesh), elution being carried out with a cyclohexane/ethyl acetate (98/02 by volume) mixture. 29 g (52%) of methyl(3aRS,4SR,7aRS)-2-benzyl-7-(4-methoxyphenyl)-4-methyl-4-phenyl-2,3,3a,4,5,7a-hexahydro-1H-isoindole-3a-carboxylate were thus obtained in the form of a brown powder, the characteristics of which were as follows:

reactant | 4-methoxyphenylboronic acid | 0.132 mol, 20.1 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | sodium carbonate | 2N | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl(3aRS,4SR,7aRS)-2-benzyl-7-iodo-4-methyl-4-phenyl-2,3,3a,4,5,7a-hexahydro-1H-isoindole-3a-carboxylate | 0.12 mol, 58.6 g | COC(=O)C12CN(CC2C(=CCC1(C1=CC=CC=C1)C)I)CC1=CC=CC=C1 | C24H26INO2
solvent | methanol | 580 cm3 | CO | CH4O
solvent | toluene | 30 cm3 | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 7 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl(3aRS,4SR,7aRS)-2-benzyl-7-(4-methoxyphenyl)-4-methyl-4-phenyl-2,3,3a,4,5,7a-hexahydro-1H-isoindole-3a-carboxylate | 29 g, 52% | COC(=O)C12CN(CC2C(=CCC1(C1=CC=CC=C1)C)C1=CC=C(C=C1)OC)CC1=CC=CC=C1 | C31H33NO3
